US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid (2-thiophen-2-ylethyl)-amide (551-10):
the title compound (8 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride (75 mg, 0.23 mmol), 2-thiophen-2-ylethylamine (29 μL, 0.25 mmol) and PS-NMM (0.22 g, 0.45 mmol) in 4 mL of chloroform. MS (m/z, ES+): 420.4 (M+1, 100): 1H NMR (500 MHz, ppm, DMSO-d6): δ 11.8-12.2 (br s, 1H), 8.5 (s, 1H), 8.0 (d, 1H), 7.8 (m, 2H), 7.32 (d, 1H), 6.93 (dd, 1H), 6.86 (d, 1H), 6.0 (br s, 2H), 3.03 (q, 2H), 2.92 (t, 2H), 2.43 (br s, 3H). Yield=8%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride | 0.23 mmol, 75 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C11H9ClN4O2S2
reactant | 2-thiophen-2-ylethylamine | 0.25 mmol, 29 μL | S1C(=CC=C1)CCN | C6H9NS
reactant | NMM | 0.45 mmol, 0.22 g | CN1CCOCC1 | C5H11NO
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid (2-thiophen-2-ylethyl)-amide | 8 mg, Yield=8% | S1C(=CC=C1)CCNS(=O)(=O)C1=CC2=C(N=C(S2)C=2C(=NNC2N)C)C=C1 | C17H17N5O2S3
